US08293768B2
Synthesis of N-benzyl-2-(3-benzyl-2-iminoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 27, making variations as required to replace N-(1-benzylimidazolidin-2-ylidene)cyanamide with 1-benzylimidazolidin-2-imine to react with N-benzyl-2-bromo-4-methylthiazole-5-carboxamide, the title compound was obtained as a colorless solid in 4% yield: mp 125-126° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.37-7.26 (m, 10H), 5.89 (t, J=5.5 Hz, 1H), 5.56 (br s, 1H), 4.54 (d, J=5.5 Hz, 2H), 4.33 (s, 2H), 4.15-4.01 (m, 2H), 3.44 (t, J=7.7 Hz, 2H), 2.62 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 159.4, 138.0, 128.9, 128.7, 128.0, 127.9, 127.6, 127.5, 105.6, 53.4, 49.3, 44.0, 43.8, 17.3; MS (ES+) m/z 406.4 (M+1).

reactant | N-(1-benzylimidazolidin-2-ylidene)cyanamide | C(C1=CC=CC=C1)N1C(NCC1)=NC#N | C11H12N4
reactant | 1-benzylimidazolidin-2-imine | C(C1=CC=CC=C1)N1C(NCC1)=N | C10H13N3
reactant | N-benzyl-2-bromo-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
product | N-benzyl-2-(3-benzyl-2-iminoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 4% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=CC=C1)=N)C | C22H23N5OS
